US07141583B2
(5R)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(3-methyl-2-thioxo-2,3-dihydroimidazol-1-ylmethyl)oxazolidin-2-one
Essentially the procedure of Example 37 was used, but starting with (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one (300 mg, 0.81 mM), and 1-methylimidazolidin-2-thione (100 mg, 0.88 mM) and heating the reaction at 60° for 1.5 hours. Chromatography on two columns gave the desired product (29 mg).

reactant | (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one | 0.81 mM, 300 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H18FNO6S
reactant | 1-methylimidazolidin-2-thione | 0.88 mM, 100 mg | CN1C(NCC1)=S | C4H8N2S
product | (5R)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(3-methyl-2-thioxo-2,3-dihydroimidazol-1-ylmethyl)oxazolidin-2-one | 29 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1C(N(C=C1)C)=S)=O)F | C19H20FN3O3S
